US08623889B2
Step 2: 7-(2-methoxy-4-methylpyridin-3-yl)isoquinolin-3-amine
To a solution of 7-(2-fluoro-4-methylpyridin-3-yl)isoquinolin-3-amine (94.8 mg; 0.374 mmol) in methanol (2.0 mL; 50 mmol) was added a solution of sodium methoxide (25 mass %) in methanol (1.0 mL; 4.5 mmol). The reaction mixture was heated at 50° C. for 5 days. The reaction mixture was poured into saturated aqueous sodium bicarbonate and extracted with dichloromethane (2×50 mL). The combined dichloromethane extracts were dried over magnesium sulfate, filtered, and evaporated in vacuo to yield the title compound in quantitative yield, which was carried forward without purification. LCMS (ESI): M+H=266.2; 1H NMR (400 MHz, DMSO) δ 8.80 (s, 1H), 8.04 (d, J=5.1 Hz, 1H), 7.64 (s, 1H), 7.55 (d, J=8.5 Hz, 1H), 7.29 (d, J=8.6 Hz, 1H), 6.98 (d, J=5.1 Hz, 1H), 6.65 (s, 1H), 5.92 (s, 2H), 3.76 (s, 3H), 2.10 (s, 3H).

reactant | 7-(2-fluoro-4-methylpyridin-3-yl)isoquinolin-3-amine | 0.374 mmol, 94.8 mg | FC1=NC=CC(=C1C1=CC=C2C=C(N=CC2=C1)N)C | C15H12FN3
reactant | methanol | 50 mmol, 2.0 mL | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 4.5 mmol, 1.0 mL | CO | CH4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 7-(2-methoxy-4-methylpyridin-3-yl)isoquinolin-3-amine | quantitative yield | COC1=NC=CC(=C1C1=CC=C2C=C(N=CC2=C1)N)C | C16H15N3O
